US04476132
7.13 g of 1-ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid tert-butyl ester are suspended in 100 ml of diethyl ether and, while stirring, 2.0 ml of 70% strength perchloric acid are carefully added. The reaction mixture is stirred for 10 minutes at 30°, cooled by means of an ice bath and suction-filtered and the residue is washed twice with a little diethyl ether and subsequently with hexane, then allowed to dry at room temperature. In this manner 1-ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid having a melting point of 157°-158° is obtained.

reactant | 1-ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid tert-butyl ester | 7.13 g | C(C)(C)(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CC)=O | C21H27NO5
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid | C(C)N1C(=O)C(=C(C2=CC(=C(C=C12)C)C(CCC)=O)O)C(=O)O | C17H19NO5
